US05541229
4'-[(2-(4-n-Butoxyphenyl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(2-(4-n-butoxyphenyl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and trifluoroacetic acid/methylene chloride.

reactant | tert.butyl 4'-[(2-(4-n-butoxyphenyl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)OC1=CC=C(C=C1)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=CC=C2 | C35H36N2O3
reactant | trifluoroacetic acid methylene chloride | FC(C(=O)O)(F)F.C(Cl)Cl
product | 4'-[(2-(4-n-Butoxyphenyl)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(CCC)OC1=CC=C(C=C1)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2 | C31H28N2O3
